US08669234B2
Two batches of the above solid 3,7-dinitro-dibenzothiophene 5-oxide was hydrogenated at 45 psi in ethanol (250 mL for each batch) with 10% Pd on carbon (0.46 g each batch) for 2 hours. Two batches were combined and filtered through CELITE to give an orange solution. Hydrogen chloride gas was bubbled into the solution to form precipitate (at pH 1). The precipitate was filtered and washed with small amount of ethanol and dried on vacuum to give an orange solid Dibenzothiophene-3,7-diamine (2.46 g). LCMS-EST: calc'd for C12H10N2S: 214.29. Found: 215.0 (M+H+).

reactant | 3,7-dinitro-dibenzothiophene 5-oxide | [N+](=O)([O-])C=1C=CC2=C(S(C3=C2C=CC(=C3)[N+](=O)[O-])=O)C1 | C12H6N2O5S
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd on carbon | 0.46 g | [Pd] | Pd
product | Dibenzothiophene-3,7-diamine | 2.46 g | C1=CC(=CC=2SC3=C(C21)C=CC(=C3)N)N | C12H10N2S
